US06262272B1
4-Oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]furan-3-carboxylic acid-(4-methoxy-phenyl)-amide
Starting from 4-oxo-5,6,7,8-tetrahydro-4H-cylohepta[b]furan-3-carboxylic acid and 4-methoxyaniline, General Procedure B provided the title compound:

reactant | 4-oxo-5,6,7,8-tetrahydro-4H-cylohepta[b]furan-3-carboxylic acid | O=C1CCCCC=2OC=C(C21)C(=O)O | C10H10O4
reactant | 4-methoxyaniline | COC1=CC=C(N)C=C1 | C7H9NO
product | 4-Oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]furan-3-carboxylic acid-(4-methoxy-phenyl)-amide | COC1=CC=C(C=C1)NC(=O)C=1C2=C(OC1)CCCCC2=O | C17H17NO4
